US07700628B2
The above resin (40.5 mg, 61.0 mmol, 1.508 mmol/g) was weighed into a 3 mL solid phase reaction vessel and the fritted end was capped. PPh3 (19.2 mg, 73.2 mmol) was added as a solution in DMF (0.25 mL), followed by N-(5-chloropyridin-2-yl)-2-(2-hydroxy-4-isopropylbenzoylamino)benzamide (30.0 mg, 73.2 mmol) as a solution in DMF (0.5 mL). DIAD (14.8 mg, 73.2 mmol) was added and the vessel was sealed and heated in a heating block at 60° C. for 72 h. The reaction vessel was drained and the resin was washed with DMF (3×), dichloromethane (3×), THF (2×), water (2×), THF (2×) and dichloromethane (2×). The fritted end of the vessel was capped and phthalic anhydride (45.3 mg, 0.305 mmol, 5 eq) and DMF (1 mL) were added. N,N-(Diisopropyl)-ethylamine (23.7 mL, 0.120 mmol) was added and the vessel capped and placed on a 360° C. rotator for 18 h. The vessel was drained and the resin was washed as before. The vessel was capped on the fritted end and 2 mL of 95:5 TFA:water was added. The vessel was capped and placed back on the rotator for 2 h. The vessel was drained in a 20 mL scintillation vial and the resin was washed with 2 mL of water. The vial was frozen and placed on a lyophilizer for 18 h. The crude residue was purified via silica gel chromatography to give N-(5-chloropyridin-2-yl)-2-[4-isopropyl-2-(3-pyrrolidinyloxy)-benzoylamino]benzamide.

reactant | PPh3 | 73.2 mmol, 19.2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | N-(5-chloropyridin-2-yl)-2-(2-hydroxy-4-isopropylbenzoylamino)benzamide | 73.2 mmol, 30.0 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(C1=C(C=C(C=C1)C(C)C)O)=O)=O | C22H20ClN3O3
reactant | DIAD | 73.2 mmol, 14.8 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | phthalic anhydride | 0.305 mmol, 45.3 mg, 5 eq | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(5-chloropyridin-2-yl)-2-[4-isopropyl-2-(3-pyrrolidinyloxy)-benzoylamino]benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(C1=C(C=C(C=C1)C(C)C)OC1CNCC1)=O)=O | C26H27ClN4O3
